// INVERTER CHAIN

simulator lang=spectre
global 0 vdd vss 
include "./22nm_HP.pm"


vdd_I1 ( vdd 0 ) vsource dc=0.8
vss_I1 ( vss 0 ) vsource dc=0

*********INVERTER***************
parameters L=22n Ln=L Wn=2*Ln k=2 
subckt inv (out in)
m1 ( out in vdd vdd ) pmos l=L w=k*Wn
m2 ( out in vss vss ) nmos l=Ln w=Wn

ends inv




***************TOP LEVEL CIRCUIT - NON RING INVERTERS CHAINS **********

xinv1 ( 1 in1 ) inv
xinv2 ( 2 1 ) inv
xinv3 ( 3 2 ) inv
xinv4 ( 4 3 ) inv
xinv5 ( 5 4 ) inv
xinv6 ( 6 5 ) inv
xinv7 ( out1 6 ) inv 

//Instantiation of piece-wise linear model

parameters VDD=0.8 X=10p

V1 (in1 0) vsource type=pwl wave=[ 0 VDD X 0 40n 0 (40n+X) VDD (80n+X) VDD ] 

//SWEEPING THE VALUE OF X

ksweep sweep param=X start=90p stop=250p step=1p {
tran_run2 tran stop=85n step=1p
}


simulator lang=spice

.MEASURE TRAN trise
+ TRIG V(4) VAL='0.1*VDD' RISE=1
+ TARG V(4) VAL='0.9*VDD' RISE=1


.MEASURE TRAN tfall
+ TRIG V(4) VAL='0.9*VDD' FALL=1
+ TARG V(4) VAL='0.1*VDD' FALL=1



.MEASURE TRAN tphl TRIG V(3) VAL='VDD/2' RISE=1
+ TARG V(4) VAL='VDD/2' FALL=1

.MEASURE TRAN tplh TRIG V(3) VAL='VDD/2' FALL=1
+ TARG V(4) VAL='VDD/2' RISE=1


